US07541374B2
0.50 g of 3-{[dichlorofluoromethyl]thio}-1H-indole was dissolved to 10 ml of tetrahydrofuran. 10 ml of formaldehyde 36% in water and 0.4 ml of tetrabutylammonium hydroxide 10% in water were added to the solution, followed by stirring at room temperature for 30 minutes. Water was added to the reaction mixture, and extracted with MTBE. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to obtain 0.54 g of 3-{[dichlorofluoromethyl]thio}-1H-indole-1-ylmethanol.

reactant | 3-{[dichlorofluoromethyl]thio}-1H-indole | 0.50 g | ClC(SC1=CNC2=CC=CC=C12)(F)Cl | C9H6Cl2FNS
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | formaldehyde | 10 ml | C=O | CH2O
solvent | water | O | H2O
solvent | tetrabutylammonium hydroxide | 0.4 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-{[dichlorofluoromethyl]thio}-1H-indole-1-ylmethanol | 0.54 g | ClC(SC1=CN(C2=CC=CC=C12)CO)(F)Cl | C10H8Cl2FNOS
